US06410562B1
Step A: 2-Bromomethyl-5-chlorobenzo[b]thiophene (R=CH2Br)
A solution of 2.73 g (14.95 mmol) 5-chloro-2-methylbenzothiophene and 2.67 g (15.0 mmol) NBS in 100 ml carbon tetrachloride was heated to 70° C. and a catalytic amount of dibenzoyl peroxide was added. After 30 min reflux solids were removed by filtration. The solvent was removed in vacuo and the residue was suspended in 100 ml hot hexane and filtered. The filtrate was evaporated to dryness to give 3.8 g (97%) of the title compound as a colorless solid.

reactant | 5-chloro-2-methylbenzothiophene | 14.95 mmol, 2.73 g | ClC=1C=CC2=C(C=C(S2)C)C1 | C9H7ClS
reactant | NBS | 15.0 mmol, 2.67 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | dibenzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromomethyl-5-chlorobenzo[b]thiophene | 3.8 g, 97% | BrCC1=CC2=C(S1)C=CC(=C2)Cl | C9H6BrClS
